US07129257B1
Step A: 7-Bromo-1-[(R)-2-hydroxypropyl]-1H-indazol-6-ol
A solution of 1-[(R)-2-hydroxypropyl]-1H-indazol-6-ol (4.76 g, 24.8 mmol) in tetrahydrofuran (50 mL), cooled in an ice bath, added small portions of N-bromosuccinimide (4.41 g, 24.8 mmol) and stirred while the reaction warmed to room temperature. The reaction was quenched with aqueous saturated sodium sulfite (100 mL) and extracted with ethyl acetate (100 mL). The combined extracts were dried (magnesium sulfate), filtered and evaporated to a yellow solid (7 g): mp 134–136° C.; LC/MS m/z 271/273.

reactant | 1-[(R)-2-hydroxypropyl]-1H-indazol-6-ol | 24.8 mmol, 4.76 g | O[C@@H](CN1N=CC2=CC=C(C=C12)O)C | C10H12N2O2
reactant | N-bromosuccinimide | 24.8 mmol, 4.41 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 7-Bromo-1-[(R)-2-hydroxypropyl]-1H-indazol-6-ol | BrC=1C(=CC=C2C=NN(C12)C[C@@H](C)O)O | C10H11BrN2O2
